US08729071B2
To a solution of methyl 5-(2,2,2-trifluoro-1-(methylsulfonyloxy)ethyl)picolinate (95 mg, 0.3 mmol) in 5 mL of MeOH was added 10% Pd/C (45 mg). Hydrogenation with 1 atm H2 was carried out at room temperature for 2 h. After the catalyst was removed by filtration, the filtrated was concentrated. The residue was dissolved in DCM and washed with sat. NaHCO3 (aq.), and brine. The solution was dried (MgSO4) and concentrated to give methyl 5-(2,2,2-trifluoroethyl)picolinate that was used without purification.

reactant | methyl 5-(2,2,2-trifluoro-1-(methylsulfonyloxy)ethyl)picolinate | 0.3 mmol, 95 mg | FC(C(OS(=O)(=O)C)C=1C=CC(=NC1)C(=O)OC)(F)F | C10H10F3NO5S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | methyl 5-(2,2,2-trifluoroethyl)picolinate | FC(CC=1C=CC(=NC1)C(=O)OC)(F)F | C9H8F3NO2
